US04640929
To 20 ml of chloroform were added 1.52 g (0.01 mole) of p-chlorophenylacetonitrile and 4.3 g (0.01 mole) of 1,3-bis(benzenesulfonylthio)-2-(N,N-dimethylamino)propane, and then 3.1 g (0.02 mole) of 1,8-diazabicyclo[5,4,0]undeca-7-ene was added thereto at room temperature. After completion of addition, the reaction was allowed to proceed at 40° C. for 4 hours. The reaction mixture was washed with two 20-ml portions of water, dried over anhydrous magnesium sulfate and concentrated to dryness. The crystals thus obtained were heated in 10 ml of toluene for dissolution and the solution was allowed to stand in the cold overnight. The resulting crystalline precipitate was collected by filtration to give 2.6 g (87%) of 2-cyano-2-(p-chlorophenyl)-5-(N,N-dimethylamino)-1,3-dithiane as light-yellow crystals melting at 110°-111° C.

reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | p-chlorophenylacetonitrile | 0.01 mole, 1.52 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1,3-bis(benzenesulfonylthio)-2-(N,N-dimethylamino)propane | 0.01 mole, 4.3 g | C1(=CC=CC=C1)S(=O)(=O)SCC(CSS(=O)(=O)C1=CC=CC=C1)N(C)C | C17H21NO4S4
reactant | 1,8-diazabicyclo[5,4,0]undeca-7-ene | 0.02 mole, 3.1 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-2-(p-chlorophenyl)-5-(N,N-dimethylamino)-1,3-dithiane | 2.6 g, 87% | C(#N)C1(SCC(CS1)N(C)C)C1=CC=C(C=C1)Cl | C13H15ClN2S2
